US08247401B2
To a solution of N-(tert-butoxycarbonyl)-D-alanine (20 g, 106 mmol), acetamide oxime (17.3 g, 234 mmol) in 120 mL of 1,4-dioxane and 30 mL of N,N-dimethylformamide were added EDC (44.8 g, 234 mmol). The mixture was heated at 60° C. for 4 h then at 100° C. for 16 h. After cooling to ambient temperature, 300 mL of ethyl acetate was added. The mixture was washed with aqueous saturated sodium bicarbonate (2×). The combined organic extracts were dried over magnesium sulfate, filtered and concentrated. The residue was purified by silica gel chromatography (100% dichloromethane→90% dichloromethane/methanol) to give pure tert-butyl[(1R)-1-(3-methyl-1,2,4-oxadiazol-5-yl)ethyl]carbamate (6.0 g). MS 172.1 ((M-t-butyl+H)+1).

reactant | N-(tert-butoxycarbonyl)-D-alanine | 106 mmol, 20 g | C(C)(C)(C)OC(=O)N[C@H](C)C(=O)O | C8H15NO4
reactant | acetamide oxime | 234 mmol, 17.3 g | C(C)(N)=NO | C2H6N2O
reactant | EDC | 234 mmol, 44.8 g
reactant | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane | 120 mL | O1CCOCC1 | C4H8O2
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | tert-butyl[(1R)-1-(3-methyl-1,2,4-oxadiazol-5-yl)ethyl]carbamate | 6.0 g | C(C)(C)(C)OC(N[C@H](C)C1=NC(=NO1)C)=O | C10H17N3O3
